US03934008
1. Z-Asn-Leu-OMe
16.7 g of H-Leu-OMe and 46.0 g of Z-Asn-ONP are dissolved in 100 ml of freshly distilled dimethylformamide. The solution is allowed to stand for 19 hours at 25°C. Thereafter 1.2 liters of water are added and the crystalline precipitate is filtered off. The dipeptide derivative is dried at 40°C in vacuo and is then twice recrystallised from methanol-water. Melting point 180°-181°C; [α]20D = + 9° (c = 2.05 in chloroform).

reactant | H-Leu-OMe | 16.7 g | N[C@@H](CC(C)C)C(=O)OC | C7H15NO2
reactant | Z-Asn-ONP | 46.0 g | C1=CC=C(C=C1)COC(=O)N[C@@H](CC(=O)N)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C18H17N3O7
reactant | water | 1.2 liters | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Z-Asn-Leu-OMe | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C19H27N3O6
